US09168245B2
Synthesis of intermediate V-d: 2-Methoxy-4-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine
A dry sealed tube under argon was charged with 3-bromo-2-methoxy-4-methylpyridine V-c (813 mg, 4.02 mmol), bis(pinacolato)diboron (1.12 g, 4.41 mmol), PdCl2(dppf):DCM (146 mg, 0.20 mmol), KOAc (1.18 g, 12.0 mmol) and dry DMF (10 mL). After 1.5 h at 100° C., the mixture was cooled to room temperature and a further portion of catalyst (75 mg, 0.092 mmol) was added. The tube was sealed and the mixture stirred at 100° C. overnight. The mixture was cooled, the solvent evaporated and the mixture taken up in DCM before washing with water. The separated organics were dried (MgSO4), filtered and evaporated before purification by column chromatography (SiO2, 10% to 20% EtOAc in cyclohexane) to afford the intermediate V-d as a mobile yellow oil (2.14 g, 51%). 1H NMR (300 MHz, CDCl3) δ 8.00 (d, J=5.3 Hz, 1H), 6.65 (d, J=5.3 Hz, 1H), 3.89 (s, 3H), 2.33 (s, 3H), 1.40 (d, J=11.1 Hz, 12H).

reactant | 3-bromo-2-methoxy-4-methylpyridine | BrC=1C(=NC=CC1C)OC | C7H8BrNO
reactant | bis(pinacolato)diboron | 4.41 mmol, 1.12 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DCM | 0.20 mmol, 146 mg | C(Cl)Cl | CH2Cl2
reactant | KOAc | 12.0 mmol, 1.18 g | CC(=O)[O-].[K+]
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Methoxy-4-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine | 2.14 g, 51% | COC1=NC=CC(=C1B1OC(C(O1)(C)C)(C)C)C | C13H20BNO3
